US09359375B2
A mixture of (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-phenylpropanamide (362 mg, 1.00 mmol), 5-amino-3-methylisothiazole hydrochloride (166 mg, 1.10 mmol), BINAP (70 mg, 0.112 mmol), Pd(OAc)2 (35 mg, 0.156 mmol) and K2CO3 (430 mg, 3.11 mmol) in dioxane (5 mL) was degassed with Ar, then was stirred at 120 C for 18 h. More Pd(OAc)2 (35 mg, 0.156 mmol) was added. The mixture was stirred at 120 C for another 18 h. Water and EtOAc were added. After being filtered, the filtrate was washed with water, dried over Na2SO4, concentrated in vacuo to give (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-cyclopropylpropanamide as a crude residue.

reactant | (R)-2-(5-bromo-4-cyano-2-fluorophenylamino)-3-phenylpropanamide | 1.00 mmol, 362 mg | BrC=1C(=CC(=C(C1)N[C@@H](C(=O)N)CC1=CC=CC=C1)F)C#N | C16H13BrFN3O
reactant | 5-amino-3-methylisothiazole hydrochloride | 1.10 mmol, 166 mg | Cl.NC1=CC(=NS1)C
reactant | BINAP | 0.112 mmol, 70 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 3.11 mmol, 430 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.156 mmol, 35 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 0.156 mmol, 35 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (R)-2-(4-cyano-2-fluoro-5-(3-methylisothiazol-5-ylamino)phenylamino)-3-cyclopropylpropanamide | C(#N)C1=CC(=C(C=C1NC1=CC(=NS1)C)N[C@@H](C(=O)N)CC1CC1)F | C17H18FN5OS
